Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R arm pain and swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with PMH notable for atrial fibrillation,
provoked extensive DVT and PE (___) on Xarelto, and recent
right arm fracture ___ who is presenting with worsening right
upper extremity swelling.

Regarding his recent arm fracture, he was treated 
non-operatively
with arm sling. His arm was mildly swollen on ortho follow up,
but felt to be consistent with his recent fracture. This
progressively worsened over the past few days and he came in for
evaluation today after being told by his daughter's boyfriend
that his arm looked much worse. He denies chest pain, shortness
of breath, fevers, chills, numbness, weakness or tingling. 

He was last seen by hematology on ___ where it was
recommended that he remain on AC with rivaroxaban for 6mo. after
initial DVT/PE. Labs during this visit notable for: Cardiolipin
IgG <14, IgM <12, Beta2-glycoprotein I antibodies IgG/IgA/IgM 
all
<9. Further genetic testing/hypercoagulable work-up was deferred
at this time, as it was not felt to change management. 

Upon arrival to the floor, the patient endorses the above
history. He reports that his fall occurred on MLK day after
slipping on an ice patch. He denies loss of consciouness or
pre-syncopal symptoms. He was seen by ___ and
followed up with Dr. ___ who advised that
his fracture was well aligned and did not require surgery. He
adds that he recently saw his cardiologist approximately 1 mo.
after his last hematology appointment, and was told to continue
taking his Xarelto indefinitely. He reports compliance with his
xarelto - he takes it every day between ___ each day with
dinner. He denies recent weight loss, fevers/chills,
melena/hematochezia, or changes in stool habits. He denies 
recent
immobilization, though notes that he hasn't been moving his R 
arm
as much due to pain from the fracture. He denies chest pain. He
denies pain with deep inspiration. Denies dysuria, but endorses
frequency, urgency, and feeling of incomplete voiding. Denies
facial edema, headaches, voice changes, neck swelling, 
SOB/cough.

 
Past Medical History:
Atrial Fibrillation (diagnosed ___
Hyperlipidemia
Benign prostatic hyperplasia
Pre-diabetes mellitus
Vitamin D deficiency
Colonoscopy in ___ showed multiple benign adenomas
History of Babesiosis (___) and Lyme disease (___)
Cyst removal on the back of the neck
 
Social History:
___
Family History:
His father had a history of blood clots, though he is not sure
where or at what age. He only knows his father wore compression
stockings and was on Warfarin. His sister, who is ___ years
younger than he, suffered pulmonary emboli ___ year ago but did 
not
get a hypercoagulable workup because of insurance concerns. 
 
Physical Exam:
Admission Physical Exam: 
=========================
VITALS: ___ Temp: 98.5 PO BP: 119/78 HR: 101 RR: 18 O2
sat: 97% O2 delivery: RA   
GENERAL: Well appearing gentleman, appears younger than stated
age, sitting in bed comfortably, in NAD
HEENT: NC/AT, EOMI, anicteric sclera, PERRL constricting from 
4mm
to 3mm bilaterally, MMM, no pharyngeal erythema/exudate
CARDIAC: Irregularly irregular, normal S1/S2, no m/r/g
LUNGS: CTAB, breathing comfortably on RA, no 
wheezes/rhonci/rales
ABDOMEN: Soft, non-tender to palpation, non-distended, active
bowel sounds, no rebound/guarding 
EXTREMITIES: R upper extremity in arm sling, diffusely 
edematous,
greatest in dorsum of R hand, palpable pulses bilaterally, 
active
ROM in hand/shoulder (did not move elbow due to pain), lower
extremities without edema or pain with palpation of calves 
SKIN: Warm, well-perfused
NEUROLOGIC: Alert, oriented, moving all extremities with 
purpose,
no facial asymmetry 

Discharge Physical Exam:
=========================
VS: 98.3 PO BP: 124 / 69 HR 88 RR 18 O2 96 Ra 
GENERAL: Well appearing man, lying in bed comfortably, in NAD
HEENT: NC/AT, EOMI, anicteric sclera, PERRL constricting from 
4mm to 3mm bilaterally, MMM, no pharyngeal erythema/exudate
CARDIAC: Irregularly irregular, tachycardic, normal S1/S2, no 
m/r/g
LUNGS: CTAB, breathing comfortably on RA, no 
wheezes/rhonchi/rales
ABDOMEN: Soft, non-tender to palpation, non-distended, active 
bowel sounds, no rebound/guarding 
EXTREMITIES: R upper extremity in arm sling, diffusely 
edematous, greatest in dorsum of R hand, palpable pulses 
bilaterally, active ROM in hand/shoulder (did not move elbow due 
to pain), lower extremities without edema or pain with palpation 
of calves 
SKIN: Warm, well-perfused
NEUROLOGIC: Alert, oriented, moving all extremities with 
purpose, no facial asymmetry

 
Pertinent Results:
ADMISSION LABS:

___ 05:15PM BLOOD WBC-7.2 RBC-4.00* Hgb-12.1* Hct-37.1* 
MCV-93 MCH-30.3 MCHC-32.6 RDW-13.7 RDWSD-46.8* Plt ___
___ 05:15PM BLOOD Glucose-116* UreaN-17 Creat-0.8 Na-139 
K-5.3* Cl-101 HCO3-22 AnGap-16

___ RUE ultrasound:
Occlusive thrombus within the right brachial vein.

DISCHARGE LABS:

___ 07:30AM BLOOD WBC-6.6 RBC-3.94* Hgb-12.2* Hct-36.6* 
MCV-93 MCH-31.0 MCHC-33.3 RDW-13.8 RDWSD-46.6* Plt ___
___ 07:30AM BLOOD Glucose-116* UreaN-16 Creat-0.7 Na-141 
K-4.1 Cl-104 HCO3-25 AnGap-___RIEF HOSPITAL COURSE
Mr. ___ is a ___ with PMH notable for atrial fibrillation, 
history of extensive DVT and PE ___ immobilization from Lyme 
disease (___) on Xarelto, and recent right arm fracture 
___ who presented with worsening right upper extremity 
swelling,
found to have RUE DVT despite being compliant with xarelto. 

ACTIVE ISSUES:
==============
# Provoked RUE DVT
# Personal and family hx of DVT
Patient presented with RUE DVT after recent RUE fracture, 
despite being on Xarelto 20mg daily. Reports compliance with 
medication. Had negative APLA work-up in ___. Genetic testing 
not done at that time.  Ddx includes genetic hypercoagulability 
given
family history of DVT/PE vs. occult malignancy. Last colonoscopy 
in ___ s/p polypectomy with pathology notable for adenomas. 
Seen by hematology in ED who recommended heparin gtt. Hematology 
saw the patient again after admission.  DVT was not thought to 
represent treatment failure given right arm fracture.  
Hematology recommended xarelto 15mg BID for 3 weeks (starting on 
___, then switching back to 20mg daily (resume ___.  He 
should continue this indefinitely.  He will follow up with 
outpatient hematologist Dr ___ after discharge. Would 
also repeat colonoscopy to follow up polyps seen on previous 
colonoscopy in ___.

# R arm fracture
Slipped and fell on ice on MLK day. He saw Dr ___ 
___ surgeon) as an outpatient. Dr ___ the 
patient in the hospital and recommended outpatient follow up, as 
his fracture is stable and not requiring surgery.

# Atrial fibrillation
Diagnosed in ___. CHADS2-VASc 4, which confers high risk. Rate 
control: Increased dose of home metoprolol succinate to 100mg qd 
as had persistently elevated HR while here. For anticoagulation: 
xarelto as above.

# Normocytic anemia
Hgb 12.1 on admission. Unclear baseline. No e/o active bleeding
or c/f hemolysis. Consider further outpatient workup.

CHRONIC/STABLE ISSUES:
======================
# BPH
Continued home tamsulosin 

TRANSITIONAL ISSUES:
====================

#Provoked DVT:  Not considered treatment failure.  Xarelto dose 
changed to 15mg twice a day for 3 weeks (___), then switch 
back to previous dose of 20mg daily ___ onwards).

#Afib with RVR
Home Metoprolol dose was increased to 100mg daily. Consider 
cardioversion if never performed before to attempt to establish 
normal sinus rhythm.

[ ] Recommend follow up with outpatient hematologist Dr ___ 
___.

[ ] Recommend follow up with primary care doctor. 
 * Recommend repeat colonoscopy given the findings of polyps in 
___. 
 * Recommend outpatient workup of normocytic anemia.

#History of adenomatous colon polyps: Patient with colonoscopy 
in ___ with 3 adenomatous polyps.  He should have a repeat 
colonoscopy between ___ years from the time of his prior 
colonoscopy.

[ ] Patient already has follow up scheduled with Dr ___ 
(___). 

#CODE: Full
#CONTACT: ___ (wife) 
 Phone number: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Rivaroxaban 20 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Vitamin D 1000 UNIT PO DAILY 
5. Vitamin B Complex 1 CAP PO DAILY 
6. Acidophilus (Lactobacillus acidophilus)    oral DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0 
3.  Acidophilus (Lactobacillus acidophilus)    oral DAILY  
4.  Tamsulosin 0.4 mg PO QHS  
5.  Vitamin B Complex 1 CAP PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Upper extremity deep venous thrombosis
History of lower extremity DVT and PE
Atrial fibrillation
Recent right arm fracture with swelling
Normocytic anemia
Hyperkalemia

Secondary:
Benign prostatic hypertrophy
History of adenomatous colon polyps

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You presented to ___ because your right arm was 
swollen. 

-You received an ultrasound of your right arm which showed a 
blood clot in your vein.
-The blood clot in your vein was treated with a blood thinner. 
-The hematology team saw you while you were in the hospital.
-Your Xarelto dose was changed (see below for instructions).
-Your metoprolol dose was also increased to control your heart 
rate.
-Your orthopedics doctor also saw you while you were in the 
hospital. 

After leaving the hospital, please continue to take your 
medications as prescribed. You should follow up with your 
primary care doctor and your orthopedics doctor.

We wish you the best,

Your ___ medicine team
 
Followup Instructions:
___